US09034866B2
Synthesis of (±)-2-(1-Methylcyclopropyl)but-3-yn-2-ol
This compound was prepared according to a procedure similar to that described in Procedure A. In a 100-mL 3-necked round-bottom flask, a solution of 1-(1-methylcyclopropyl)ethan-1-one (2 g, 20.38 mmol, 1.00 equiv) in tetrahydrofuran (5 mL) was added into a solution of bromo(ethynyl)magnesium (0.5 M in THF, 53 mL, 1.30 equiv) in tetrahydrofuran (5 mL). The resulting solution was stirred for 8 h at 0° C. in an ice/salt bath. The reaction was then quenched by the addition of 50 mL of sat. aq. NH4Cl. The resulting solution was extracted with 3×150 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 3×150 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 120 mg (5%) of 2-(1-methylcyclopropyl)but-3-yn-2-ol as colorless oil.

reactant | 1-(1-methylcyclopropyl)ethan-1-one | 20.38 mmol, 2 g, 1.00 equiv | CC1(CC1)C(C)=O | C6H10O
reactant | bromo(ethynyl)magnesium | 0.5 M, 53 mL, 1.30 equiv | Br[Mg]C#C
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (±)-2-(1-Methylcyclopropyl)but-3-yn-2-ol | CC1(CC1)C(C)(C#C)O | C8H12O
